US08017604B2
Step 6: 5-(6-Bromo-2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid
NaOH (3N, 0.65 ml) was added to a solution of 5-(6-bromo-2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (460 mg, 0.98 mmol) in a mixture of THF (5 ml) and methanol (5 ml), and the reaction mixture was stirred at r.t. overnight. An additional amount of NaOH (3N, 0.65 ml) and water (2 ml) were added and the mixture was heated to reflux (1 h). After cooling to r.t., HCl (conc., ˜0.7 ml) was added to the cooled mixture, and the brown suspension was stirred at r.t. (15 min). The suspension was then filtered, and the precipitated title compound (150 mg, 35%) was washed with a small amount of water, dried under vacuum, and used in the next step without further purification. MS (m/e)=440.3 [M+H+].

reactant | NaOH | 3N, 0.65 ml | [OH-].[Na+]
reactant | 5-(6-bromo-2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.98 mmol, 460 mg | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1Br)C=C(N2)C2=CC=CC=C2)=O)C | C21H18BrN5O3
reactant | NaOH | 3N, 0.65 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
reactant | HCl | ˜0.7 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 5-(6-Bromo-2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)NC(=O)C2=C(C=NN2C)C(=O)O | C19H14BrN5O3
